US07199125B2
methyl (4R)-2-(4-bromobenzyl)-4-hydroxy-L-prolinate
To a suspension of (3R,6R,7aS)-6-tert-butoxy-7a-(4-Bromo-benzyl)-3-(trichloromethyl)tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-1-one (0.4 g) (Prep. 2) in 10 mL of MeOH was added 1 mL of dry HCl in ethyl ether, and the resulting solution was refluxed for 13 hrs. The MeOH was evaporated, and the residue dissolved in DCM and washed with aqueous NaHCO3. The organic layer was dried over MgSO4, filtered, and evaporated under reduced pressure to afford the above-titled compound (0.170 g). 1H NMR (CDCl3): 7.40 (2H,d), 7.05 (2H,d), 4.25 (1H, m), 3.65 (3H,s), 3.15 (1H,d), 2.85–3.0 (2H,m), 2.45–2.6 (2H,m), 1.85 (1H,dd).

reactant | (3R,6R,7aS)-6-tert-butoxy-7a-(4-Bromo-benzyl)-3-(trichloromethyl)tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-1-one | 0.4 g | C(C)(C)(C)O[C@@H]1C[C@@]2(N([C@H](OC2=O)C(Cl)(Cl)Cl)C1)CC1=CC=C(C=C1)Br | C18H21BrCl3NO3
reactant | HCl | 1 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl (4R)-2-(4-bromobenzyl)-4-hydroxy-L-prolinate | 0.170 g | BrC1=CC=C(C[C@@]2(NC[C@@H](C2)O)C(=O)OC)C=C1 | C13H16BrNO3
